US04287338
A mixture of 1.00 gm of 2,4-diamino-6-(benzylmethylamino)pyrimidine-3-oxide, 1.15 grams of chlorosulfonic acid and 2.50 grams of di-isopropylethylamine in 25 mls of chloroform is stirred overnight. The mixture is concentrated in vacuo. The residue is stirred with aqueous sodium bicarbonate, filtered, and washed with ether to give 2,6-diamino-4-(benzylmethylamino)-1-(sulfooxy)-pyrimidinium hydroxide, inner salt.

reactant | 2,4-diamino-6-(benzylmethylamino)pyrimidine-3-oxide | 1.00 gm | NC1=NC(=CC(=[N+]1[O-])N)NCCC1=CC=CC=C1 | C12H15N5O
reactant | chlorosulfonic acid | 1.15 grams | ClS(=O)(=O)O | ClHO3S
reactant | di-isopropylethylamine | 2.50 grams | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chloroform | 25 mls | C(Cl)(Cl)Cl | CHCl3
product | 2,6-diamino-4-(benzylmethylamino)-1-(sulfooxy)-pyrimidinium hydroxide | [OH-].NC1=[N+](C(=CC(=N1)NCCC1=CC=CC=C1)N)OS(=O)(=O)O | InChI=1S/C12H15N5O4S.H2O/c13-10-8-11(15-7-6-9-4-2-1-3-5-9)16-12(14)17(10)21-22(18,19)20;/h1-5,8H,6-7H2,(H5,13,14,15,16,18,19,20);1H2
